US06110967
1-(2-Cyanoethyl)-4-aminoimidazole:
1-(2-Cyanoethyl)-4-nitroimidazole (3.32 g, 20 mmol) was dissolved in methanol (100 ml), and platinum oxide (50 mg) was added to the solution. The mixture was stirred for 12 hours in a hydrogen atmosphere. The catalyst was removed by filtration through Celite, and the filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (chloroform:methanol=10:1 to 5:1) to obtain 2.31 g of the title compound (oil).

reactant | 1-(2-Cyanoethyl)-4-nitroimidazole | 20 mmol, 3.32 g | C(#N)CCN1C=NC(=C1)[N+](=O)[O-] | C6H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum oxide | 50 mg | [Pt]=O
product | 1-(2-Cyanoethyl)-4-aminoimidazole | 2.31 g | C(#N)CCN1C=NC(=C1)N | C6H8N4
